US06630469B2
6-Chloro-4-[(1S)-(1-phenylethyl)amino]pyrimidine (Intermediate of Formula III)
A solution of 4,6-dichloropyrimidine (14.9 g, 100 mmole) and (1S)-1-phenylethylamine (13.3 g, 110 mmole) in CH3CN (100 mL) was refluxed for 4 hours. The reaction was partitioned between Et2O (500 mL) and H2O (250 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel 60 with Hexane/EtOAc 3:1. Pure fractions were combined, concentrated under reduced pressure, and dried under high vacuum to afford the titled compound (18.6 g, 80%) as a yellow oil. 1H NMR (CDCl3): δ 1.57 (d, J=7.0 Hz, 3H), 4.6 (b s,1H), 5.6 (b s,1H), 6.19 (s,1H), 7.34 (m, 5H), 8.30 (s,1H); LC/MS (MH+) 233.62.

reactant | 4,6-dichloropyrimidine | 100 mmole, 14.9 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | (1S)-1-phenylethylamine | 110 mmole, 13.3 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 6-Chloro-4-[(1S)-(1-phenylethyl)amino]pyrimidine | 18.6 g, 80% | ClC1=CC(=NC=N1)N[C@@H](C)C1=CC=CC=C1 | C12H12ClN3
